US08138357B2
Methyl 2-isopropoxy-5-nitrobenzoate (6.92 g, 28.95 mmol) was taken up in THF/H2O (35 ml of each) and LiOH (1.39 g, 57.9 mmol) was added. The mixture was stirred at RT overnight then the pH was lowered to 1 by the addition of concentrated HCl and the product extracted in ethyl acetate (50 ml). The organic layer was dried (MgSO4) and evaporated to give 2-isopropoxy-5-nitrobenzoic acid (6.02 g, 92.5%) as a yellow solid. 1H NMR (δ, 250 MHz, DMSO-d6): 1.32 (d, 6-H, CH3), 4.88 (septet, 1-H, CH), 7.37 (d, 1-H, aromatic), 8.32 (dd, 1-H, aromatic), 8.40 (d, 1-H, aromatic), 13.13 (s, 1-H, CO2H). 2-Isopropoxy-5-nitrobenzoic acid (6.02 g, 26.75 mmol) was suspended in EtOH (100 ml) and 10% Pd on C (wet basis) (600 mg) was added. The mixture was hydrogenated at 50 psi for 2 hrs. The mixture was filtered through celite and the volatiles were removed in vacuo. The residue was triturated with IPA, and the resulting solid filtered off, washed with MTBE and dried in vacuo to give 4.15 g of 5-amino-2-isopropoxybenzoic acid (79.5%) as a pale yellow solid.

reactant | Methyl 2-isopropoxy-5-nitrobenzoate | 28.95 mmol, 6.92 g | C(C)(C)OC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C11H13NO5
reactant | LiOH | 57.9 mmol, 1.39 g | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF H2O | C1CCOC1.O
product | 2-isopropoxy-5-nitrobenzoic acid | 6.02 g, 92.5% | C(C)(C)OC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C10H11NO5
